US05459243
4-(1-Hexyn-1-yl)-1-(2-O-methyl-3,5,-di-O-benzoyl-β-D-ribofuranosyl)pyrimidin-2-one.
Bis-triphenylphosphine palladium (II) dichloride (422 mg, 4.3 mmole) and copper (I) iodide (114 mg, 4.3 mmole) were suspended in anhydrous THF (100 ml) and degassed with argon for 10 min. The orange suspension was treated with triethylamine (5 ml) and 1-hexyne (2.96 g, 41 mmole) and stirred for 5 min. A solution of 4-chloro-1-(2-O-methyl-3,5,-di-O-benzoyl-β-D-ribofuranosyl)pyrimidin-2-one (6.74 g, 13.9 mmole) in THF (25 ml) was added all at once. The reaction mixture was stirred for 2 hours at room temperature and evaporated to an oil. The residue was purified by silica gel column chromatography. Elution with chloroform (500 ml) and then chloroform/acetone (98:2, 21), pooling of appropriate fractions and evaporation gave a yield of 3.84 g (52.7%).

reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hexyne | 41 mmole, 2.96 g | C#CCCCC | C6H10
reactant | 4-chloro-1-(2-O-methyl-3,5,-di-O-benzoyl-β-D-ribofuranosyl)pyrimidin-2-one | 13.9 mmole, 6.74 g | ClC1=NC(N(C=C1)[C@H]1[C@H](OC)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)=O | C24H21ClN2O7
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 4.3 mmole, 114 mg | [Cu]I
product | 4-(1-Hexyn-1-yl)-1-(2-O-methyl-3,5,-di-O-benzoyl-β-D-ribofuranosyl)pyrimidin-2-one | C(#CCCCC)C1=NC(N(C=C1)[C@H]1[C@H](OC)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)=O | C30H30N2O7
